US08754114B2
N-(3-{7-[1-(2-Cyano-1-phenylethyl)-1H-pyrazol-4-yl]imidazo[1,2-b]pyridazin-3-yl}phenyl)-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 89, Step 2 starting from N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea and cinnamonitrile. LCMS (M+H)+: m/z=531.2.

reactant | N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H14F3N7O
reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
product | N-(3-{7-[1-(2-Cyano-1-phenylethyl)-1H-pyrazol-4-yl]imidazo[1,2-b]pyridazin-3-yl}phenyl)-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC(C1=CC=CC=C1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H21F3N8O
